* C:\Users\ad\Desktop\DO_AN_final.asc
M1 VDD A N001 VDD pch l=130n w=1.6u
M2 N001 A VSS VSS nch l=130n w=0.8u
V1 VDD 0 1.8
V2 VSS 0 0
M3 N003 N007 out1 VDD pch l=130n w=1.6u
M5 VDD A N003 VDD pch l=130n w=1.6u
M6 VDD N001 N004 VDD pch l=130n w=1.6u
M7 out1 A N009 0 nch l=130n w=0.8u
M8 out1 N007 N009 0 nch l=130n w=0.8u
M4 N004 B out1 VDD pch l=130n w=1.6u
M9 N009 B 0 0 nch l=130n w=0.8u
M10 N009 N001 0 0 nch l=130n w=0.8u
M11 VDD B N007 VDD pch l=130n w=1.6u
M12 N007 B 0 0 nch l=130n w=0.8u
V§B B 0 PULSE(0 1.8 0 4p 4p 10n 20n)
V§A A 0 PULSE(0 1.8 0 4p 4p 5n 10n)
M13 VDD out1 N002 VDD pch l=130n w=1.6u
M14 N002 out1 VSS VSS nch l=130n w=0.8u
M15 N005 N008 out2 VDD pch l=130n w=1.6u
M16 VDD out1 N005 VDD pch l=130n w=1.6u
M17 VDD N002 N006 VDD pch l=130n w=1.6u
M18 out2 out1 N010 0 nch l=130n w=0.8u
M19 out2 N008 N010 0 nch l=130n w=0.8u
M20 N006 C out2 VDD pch l=130n w=1.6u
M21 N010 C 0 0 nch l=130n w=0.8u
M22 N010 N002 0 0 nch l=130n w=0.8u
M23 VDD C N008 VDD pch l=130n w=1.6u
M24 N008 C 0 0 nch l=130n w=0.8u
V§C C 0 PULSE(0 1.8 0 4p 4p 15n 25n)
M25 VDD out2 Vout VDD pch l=130n w=1.6u
M26 Vout out2 VSS VSS nch l=130n w=0.8u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ad\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100n
.lib "C:\Users\ad\Desktop\New folder\130nm_bulk.lib"
.backanno
.end
